US06846946B2
Benzyl Phenyl Ether
Phenol (2.836 g, 30 millimoles, Aldrich, 99+%), sodium hydroxide (1.411 g, 35 millimoles, Merck, 97%), and sodium iodide (0.433 g, 3 millimoles, Aldrich, 98%) were dissolved in water (299.19 g). The excess molar concentration of sodium hydroxide of was 0.166. The aqueous phase was introduced into a 3-neck 500 mL reactor immersed in the water bath at 50° C. The mixture consisting of benzyl chloride (3.930 g, 31 millimoles, Aldrich, 97%), Aliquat 336 (2.597 g, 6 millimoles, Aldrich), durene (0.693 g, 5 millimoles, Aldrich, 98%), and toluene (15.02 g, J. T. Baker, ultra-pure). The organic phase:aqueous phase weight ratio was 1:14. The two phase mixture was stirred mechanically (600 rpm) at 50° C. for 90 minutes. The aliquot of the reaction mixture was centrifuged, the phases were separated and the organic phase was injected into a GC column. The yield of benzyl phenyl ether based on the limiting reactant (phenol) was 70%. No byproducts could be detected in the chromatograms representing the reaction mixture.

reactant | Phenol | 30 millimoles, 2.836 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 35 millimoles, 1.411 g | [OH-].[Na+]
reactant | sodium iodide | 3 millimoles, 0.433 g | [I-].[Na+]
reactant | benzyl chloride | 31 millimoles, 3.930 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | durene | 5 millimoles, 0.693 g | C=1(C)C(C)=CC(C)=C(C)C1 | C10H14
solvent | water | 299.19 g | O | H2O
catalyst | Aliquat 336 | 6 millimoles, 2.597 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | toluene | 15.02 g | C1(=CC=CC=C1)C | C7H8
product | Benzyl Phenyl Ether | C1(=CC=CC=C1)OCC1=CC=CC=C1 | C13H12O
